US08008307B2
Step b: 4-chloro-6-(1-naphthyl)-7H-pyrrolo[2,3-d]pyrimidine
To a stirred solution of 4-chloro-6-(1-naphthyl)-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine (350 mg, 0.73 mmol) in THF (2.50 mL) was added a solution of NaOH (205 mg, 5.13 mmol) in methanol (1.19 mL), and the mixture was stirred for 15 minutes. After quenching by addition of saturated NH4Cl solution (80.0 mL), the mixture was extracted with ethyl acetate (3×100 mL). The organic layers were combined, dried over MgSO4, filtered, and evaporated under vacuum. The residue was dissolved in a small amount of methanol, and the suspension was filtered through a glass pad filter. The white solid was dried under high to afford the title compound (141 mg, 65%).

reactant | 4-chloro-6-(1-naphthyl)-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.73 mmol, 350 mg | ClC=1C2=C(N=CN1)N(C(=C2)C2=CC=CC1=CC=CC=C21)S(=O)(=O)C2=CC=CC=C2 | C22H14ClN3O2S
reactant | NaOH | 5.13 mmol, 205 mg | [OH-].[Na+]
solvent | THF | 2.50 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.19 mL | CO | CH4O
product | 4-chloro-6-(1-naphthyl)-7H-pyrrolo[2,3-d]pyrimidine | 141 mg, 65% | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=CC1=CC=CC=C21 | C16H10ClN3
